US05157041
In a manner analogous to that described in Example 27, from 27 mg of N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester and 11.3 mg of 2-indolecarboxylic acid there were obtained 15 mg of N-[3(S)-[[N-(2-indolylcarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester; MS: m/e 592 [M+H]+.

reactant | N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 27 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](N)CC(N)=O)=O)O)=O | C23H36N4O5
reactant | 2-indolecarboxylic acid | 11.3 mg | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
product | N-[3(S)-[[N-(2-indolylcarbonyl)-L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 15 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(=O)C=1NC2=CC=CC=C2C1)CC(N)=O)=O)O)=O | C32H41N5O6
